US05736550
To 3-benzyl-6-chloro-3-azahexane-1,5-diol (164 g) was added dropwise under ice-cooling over 30 minutes conc. sulfuric acid (205 ml, 1.99 mol) in the absence of a solvent and allowed to rise to room temperature and stirred for 25 minutes. The reaction mixture was heated at 150° C. for 45 minutes. After cooling, ice-water (1000 ml) was added to the reaction mixture under ice-cooling and then 50% aqueous sodium hydroxide (1000 ml) was added dropwise over one hour. After insolubles were filtered off, the filtrate was extracted with chloroform (1000 ml×3). The organic layer was washed successively with purified water (1000 ml) and a saturated aqueous solution of sodium chloride (1000 ml), dried over potassium carbonate and the solvent was distilled off under reduced pressure. The residue was chromatographed over silica gel and the fraction from ethyl acetate-hexane (1/6) gave 4-benzyl-2-chloromethylmorpholine (107.25 g) as a colorless oil. A total yield of the two steps=72%.

reactant | 3-benzyl-6-chloro-3-azahexane-1,5-diol | 164 g | C(C1=CC=CC=C1)N(CCO)CC(CCl)O | C12H18ClNO2
reactant | sulfuric acid | 1.99 mol, 205 ml | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 1000 ml | [OH-].[Na+]
product | 4-benzyl-2-chloromethylmorpholine | 107.25 g | C(C1=CC=CC=C1)N1CC(OCC1)CCl | C12H16ClNO
